US06326398B1
To a solution of 3-benzyloxy-4-methoxyphenol (3 g) in DMSO (2 mL) was added potassium t-butoxide (1.6 g). After 30 min, 4-chloro-3,5-dimethyl-nitrobenzene (2 g) was added and the resulting solution was heated at 80° C. for 2 h. The reaction mixture was partitioned between ethyl acetate and 1 N aqueous NaOH, and the organic layer was washed with water, brine, dried over sodium sulfate and concentrated in vacuo to afford 4-(3-benzyloxy-4-methoxyphenoxy)-3,5-dimethylnitrobenzene (1.9 g) as an orange solid.

reactant | 3-benzyloxy-4-methoxyphenol | 3 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)O | C14H14O3
reactant | potassium t-butoxide | 1.6 g | CC(C)([O-])C.[K+]
reactant | 4-chloro-3,5-dimethyl-nitrobenzene | 2 g | ClC1=C(C=C(C=C1C)[N+](=O)[O-])C | C8H8ClNO2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 4-(3-benzyloxy-4-methoxyphenoxy)-3,5-dimethylnitrobenzene | 1.9 g | C(C1=CC=CC=C1)OC=1C=C(OC2=C(C=C(C=C2C)[N+](=O)[O-])C)C=CC1OC | C22H21NO5
